US08106090B2
[(1R,2S)-1-Benzyl-3-benzylamino-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 and purification method D with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.263 g, 1.0 mmol) and benzylamine (0.11 mL, 1.0 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 1.0 mmol, 0.263 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | benzylamine | 1.0 mmol, 0.11 mL | C(C1=CC=CC=C1)N | C7H9N
product | [(1R,2S)-1-Benzyl-3-benzylamino-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CNCC1=CC=CC=C1)O)CC1=CC=CC=C1)=O | C22H30N2O3
